US08044052B2
Synthesis of 4-(3-(5-ethoxypyridin-2-yloxy)benzylidene)-N-(pyridazin-3-yl)piperidine-1-carboxamide
To a solution of 5-ethoxy-2-(3-(piperidin-4-ylidenemethyl)phenoxy)pyridine (0.22 g, 0.708 mmol) in DMSO (4 mL) was added phenyl pyridazin-3-ylcarbamate (0.152 g, 0.708 mmol) followed by triethylamine (0.265 mL, 2.12 mmol). The resulting mixture was stirred at RT for 12 h. The reaction mixture was diluted with water and extracted with EtOAc. The organic extract was dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (38% acetone, 62% hexane) to give the title compound (0.225 g, 73% yield). 1H NMR (500 MHz, CDCl3): δ 8.80 (s, 1H), 8.29 (s, 1H), 7.87 (d, J=3.0 Hz, 1H), 7.41 (d, J=4.0 Hz, 1H), 7.34-7.23 (m, 1H), 6.99-6.93 (m, 3H), 6.86 (d, J=9.0 Hz, 1H), 6.39 (s, 1H), 4.02 (q, J=7.0 Hz, 2H), 3.67 (s, 2H), 3.57 (s, 2H), 2.6-2.5 (m, 2H), 2.47 (m, 2H), 1.40 (t, J=7.0 Hz, 3H). 13C NMR (125 MHz, CDCl3): δ 157.32, 156.79, 155.24, 151.82, 147.4, 138.74, 137.55, 133.57, 129.40, 127.97, 126.82, 124.89, 124.56, 120.55, 118.91, 112.52, 64.61, 45.66, 44.66, 35.78, 29.14, 14.82; m/z (432.1, M+ H+); HPLC: 98.76%.

reactant | 5-ethoxy-2-(3-(piperidin-4-ylidenemethyl)phenoxy)pyridine | 0.708 mmol, 0.22 g | C(C)OC=1C=CC(=NC1)OC1=CC(=CC=C1)C=C1CCNCC1 | C19H22N2O2
reactant | phenyl pyridazin-3-ylcarbamate | 0.708 mmol, 0.152 g | N1=NC(=CC=C1)NC(OC1=CC=CC=C1)=O | C11H9N3O2
reactant | triethylamine | 2.12 mmol, 0.265 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3-(5-ethoxypyridin-2-yloxy)benzylidene)-N-(pyridazin-3-yl)piperidine-1-carboxamide | 0.225 g, 73% yield | C(C)OC=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)NC=2N=NC=CC2)C=CC1 | C24H25N5O3
